US08283353B2
4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-6-{[2-methyl-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one
To a solution of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile (0.88 g) and rhodium acetate (dimer, 0.080 g) in toluene (10 mL) was added dropwise ethyl diazoacetate (0.95 mL) at 80° C., and the mixture was stirred for 3 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was crudely purified by silica gel column chromatography. This was dissolved in tetrahydrofuran (2 mL), methylmagnesium bromide (1.4 M tetrahydrofuran solution, 1.6 mL) was added dropwise thereto at 0° C., and the mixture was stirred for 2 hr. To the reaction mixture were added ethyl acetate and then saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. This was dissolved in dimethyl sulfoxide (3 mL), hydroxylammonium chloride (0.41 g) and sodium hydrogen carbonate (0.62 g) were added, and the mixture was stirred at 90° C. for 20 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (0.096 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.088 mL) were added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with ethyl acetate, washed with 1 M hydrochloric acid, then with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.084 g, 28%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}-2′-methylbiphenyl-2-carbonitrile | 0.88 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC(=C(C=C1)C=1C(=CC=CC1)C#N)C)CCC)N=CC2 | C30H32N4O2
reactant | ethyl diazoacetate | 0.95 mL | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium acetate | 0.080 g | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | 4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-6-{[2-methyl-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 0.084 g, 28% | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)C)CCC)N=CC2)(C)C | C35H41N5O5
